US04256898
To 90 mg. (0.2 mmole) of 3-oxo-α-phthalimido 5-isoxazolidine acetic acid, benzhydryl ester (IIa) in 5 ml of methylene chloride is added a 50% molar excess of a standard etheral diazomethane solution. A 5 μl. amount of βF3.Et2O is added and, after 30 minutes, the reaction is concentrated and the residue chromatographed on preparative TLC (AIX eluent) to yield (45 mg) of 3-methoxy-4,5-dihydro-α-phthalimido-5-isoxazole acetic acid, benzhydryl ester.

reactant | 3-oxo-α-phthalimido 5-isoxazolidine acetic acid, benzhydryl ester | 0.2 mmole | O=C1NOC(C1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C26H20N2O6
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | Et2O | CCOCC | C4H10O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-methoxy-4,5-dihydro-α-phthalimido-5-isoxazole acetic acid, benzhydryl ester | 45 mg | COC1=NOC(C1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C27H22N2O6
